US08957203B2
Step 1: Preparation of (E)-3-(4-fluorophenyl)acryloyl azide
To a solution of (E)-3-(4-fluorophenyl)acrylic acid (25 g, 150 mmol) in benzene (120 mL) was added triethylamine (30.5 g, 301 mmol) followed by DPPA (41.4 g, 150 mmol) at room temperature. The reaction mass was stirred at the same temperature for 18 h. The solvent was evaporated under reduced pressure and the residue was diluted with water and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to get crude compound. The crude compound was purified by conventional column chromatography (Silica gel, 60-120 mesh) using 10% ethyl acetate in pet ether as mobile phase to get the desired compound as a white solid (26 g, 90%). 1H NMR (400 MHz, CDCl3): δ ppm 7.73-7.69 (d, J=16 Hz, 1H), 7.55-7.51 (m, 2H), 7.11-7.07 (m, 2H), 6.36-6.32 (d, J=16 Hz, 1H).

reactant | (E)-3-(4-fluorophenyl)acrylic acid | 150 mmol, 25 g | FC1=CC=C(C=C1)/C=C/C(=O)O | C9H7FO2
reactant | triethylamine | 301 mmol, 30.5 g | C(C)N(CC)CC | C6H15N
reactant | DPPA | 150 mmol, 41.4 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
product | (E)-3-(4-fluorophenyl)acryloyl azide | 26 g, 90% | FC1=CC=C(C=C1)/C=C/C(=O)N=[N+]=[N-] | C9H6FN3O
